US04262004
A mixture of 3 parts of 2,3-dihydroimidazo[2,1-b]benzothiazol-7-amine, 15 parts of 2-bromo-2-methylpropane and 13.5 parts of N,N-dimethylformamide is stirred for 20 hours at 80° C. The reaction mixture is poured onto 50 parts of water. The precipitated product is filtered off, washed successively with water, 2-propanol and 2,2'-oxybispropane, and dried, yielding 3 parts of N-(2,3-dihydroimidazo[2,1-b]benzothiazol-7-yl)formamide monohydrobromide; mp. 287.3° C.

reactant | 2,3-dihydroimidazo[2,1-b]benzothiazol-7-amine | N=1CCN2C1SC1=C2C=CC(=C1)N | C9H9N3S
reactant | 2-bromo-2-methylpropane | BrC(C)(C)C | C4H9Br
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2,3-dihydroimidazo[2,1-b]benzothiazol-7-yl)formamide monohydrobromide | Br.N=1CCN2C1SC1=C2C=CC(=C1)NC=O | InChI=1S/C10H9N3OS.BrH/c14-6-12-7-1-2-8-9(5-7)15-10-11-3-4-13(8)10;/h1-2,5-6H,3-4H2,(H,12,14);1H
